US05091387
1'-(t-Butyloxycarbonyl)spiro(indene-1,4'-piperidine) (16 g, 56 mmole) in ethyl acetate (250 ml) was stirred in an ice bath and saturated with HCl(g) for 30 min. The mixture was evaporated to dryness. Ethyl acetate was added and removed in vacuo three times, and the residue was triturated with diethyl ether and filtered to provide spiro(1H-indene-1,4'-piperidine) hydrochloride. The free base was obtained by slurrying the hydrochloride in aqueous sodium bicarbonate solution and extracting with CH2Cl2. The organic layer was separated, dried over sodium sulfate, filtered, and evaporated to dryness in vacuo to provide the title compound.

reactant | 1'-(t-Butyloxycarbonyl)spiro(indene-1,4'-piperidine) | 56 mmole, 16 g | C(C)(C)(C)OC(=O)N1CCC2(CC1)C=CC1=CC=CC=C12 | C18H23NO2
reactant | HCl | Cl | ClH
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
product | spiro(1H-indene-1,4'-piperidine) hydrochloride | Cl.N1CCC2(CC1)C=CC1=CC=CC=C12 | InChI=1S/C13H15N.ClH/c1-2-4-12-11(3-1)5-6-13(12)7-9-14-10-8-13;/h1-6,14H,7-10H2;1H
